US09283555B2
N1-(2-n-propylphenyl)-N2-(diphenylphosphino)-4-methylbenzamidine (NP Amidine XVIII)
Procedure as described for NP Amidine XVII using the following amounts: 1.26 g of N1-(2-n-propylphenyl)-4-methylbenzamidine (5.0 mmol), 2.50 mL of 2.0 M butyllithium (5.0 mmol), 0.90 mL of chlorodiphenylphosphine (5.0 mmol). 1.76 g (74%) of light yellow solid was collected.

reactant | N1-(2-n-propylphenyl)-4-methylbenzamidine | 5.0 mmol, 1.26 g | C(CC)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C)=N | C17H20N2
reactant | butyllithium | 5.0 mmol, 2.0 M, 2.50 mL | C(CCC)[Li]
reactant | chlorodiphenylphosphine | 5.0 mmol, 0.90 mL | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
product | N1-(2-n-propylphenyl)-N2-(diphenylphosphino)-4-methylbenzamidine | C(CC)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C)=NP(C1=CC=CC=C1)C1=CC=CC=C1 | C29H29N2P
